US08138189B2
Step 7: 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenoxymethyl}-benzoic acid ethyl ester
A solution of 3-chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenol (800 mg) in DMF (10 mL) was added to a suspension of NaH (60% in mineral oil, 204 mg) in DMF (8 mL) over a period of 20 minutes. Stirring was continued for 30 minutes at r.t. The mixture was cooled to 0° C. and ethyl-4-(bromomethyl)-benzoate (591 mg, [CAS Reg. No. 26496-94-6]) dissolved in DMF (7 mL) was added dropwise over a period of 15 minutes. Stirring was continued for 1 hour at r.t. The reaction mixture was poured into ice/water and extracted two times with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4, filtered and the solvent was evaporated. The residue was purified by flash chromatography (silica gel, gradient of heptane in ethyl acetate) to give the title compound as a colorless foam (625 mg, 53%). MS (m/e)=508.0 [MH+].

reactant | 3-chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenol | 800 mg | ClC=1C=C(C=CC1C(C(C(F)(F)F)(C1=CC(=NC=C1)C)O)C)O | C16H15ClF3NO2
reactant | NaH | 204 mg | [H-].[Na+]
reactant | ethyl-4-(bromomethyl)-benzoate | C(C)OC(C1=CC=C(C=C1)CBr)=O | C10H11BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(2-methyl-pyridin-4-yl)-propyl]-phenoxymethyl}-benzoic acid ethyl ester | 625 mg, 53% | C(C)OC(C1=CC=C(C=C1)COC1=CC(=C(C=C1)C(C(C(F)(F)F)(C1=CC(=NC=C1)C)O)C)Cl)=O | C26H25ClF3NO4
